US06765006B2
1-Isopropyl-6,7-methylenedioxy-4-(3,4-ethylenedioxyphenyl)-3,4-dihydroquinazolin-2(1H)-one
This compound was synthesized from N-isopropyl-N-[3,4-(methylenedioxy)-phenyl]urea (240 mg) and 1,4-benzodioxan-6-carboxaldehyde (181 mg) by the procedure described in example 10 in 32% yield, mp: 185-187° C. 1H NMR (CDCl3): 6.86-6.75 (m, 3H), 6.67 (s, 1H), 6.30 (s, 1H), 5.91 (s, 1H), 6.89 (s, 1H), 5.18 (s, 1H), 4.99 (br s, 1H), 4.44 (m, 2H), 4.25 (s, 4H), 1.56 (d, J=6.8, 3H), 1.55 (d, J=6.8, 3H). Anal. calcd. for C20H20N2O5.(½)H2O: C, 63.65; H, 5.61; N, 7.42. Found: C. 63.37; H, 5.34; N, 7.07.

reactant | N-isopropyl-N-[3,4-(methylenedioxy)-phenyl]urea | 240 mg | C(C)(C)N(C(=O)N)C1=CC2=C(C=C1)OCO2 | C11H14N2O3
reactant | 1,4-benzodioxan-6-carboxaldehyde | 181 mg | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
product | 1-Isopropyl-6,7-methylenedioxy-4-(3,4-ethylenedioxyphenyl)-3,4-dihydroquinazolin-2(1H)-one | 32% yield | C(C)(C)N1C(NC(C2=CC3=C(C=C12)OCO3)C3=CC1=C(C=C3)OCCO1)=O | C20H20N2O5
